US06605726B1
(3S)-3-[(1,1-Dimethylethyl)dimethylsilyloxy]-oxolan-2-one
3.92 g (38.4 mmol) of (S)-3-hydroxybutyrolactone with 5.23 g (2 equivalents, 76.8 mmol) of imidazole are introduced at 0° C. into 50 ml of absolute DMF. 7.53 g (1.3 equivalents, 49.92 mmol) of TBSCl is now slowly added and stirred for 2.5 hours.

reactant | (S)-3-hydroxybutyrolactone | 38.4 mmol, 3.92 g | O[C@H]1CC(=O)OC1 | C4H6O3
reactant | imidazole | 76.8 mmol, 5.23 g, 2 equivalents | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 49.92 mmol, 7.53 g, 1.3 equivalents | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
product | (3S)-3-[(1,1-Dimethylethyl)dimethylsilyloxy]-oxolan-2-one | CC(C)(C)[Si](O[C@@H]1C(OCC1)=O)(C)C | C10H20O3Si
